US04617398
2-(2-Nitro-1-imidazoyl)ethanol
To a suspension of 2-nitroimidazole (4.00 g, 35.4 mmol) in 40 mL dry DMF was added dropwise 3N NaOMe in MeOH until the imidazole had dissolved completely and the solution had just turned red. Further imidazole was added until the color just returned to yellow. The MeOH was then removed by heating to 110° C., removing the condenser, and continuing heating up to a bath temperature of 152° C. After cooling the solution to 110° C., 2-bromoethanol (2.74 mL, 4.82 g, 38.6 mmol, Aldrich, redistilled) was added and the bath temperature maintained at 110° C. for 1-1/2 h. The yellow solution was then flash-evaporated at 40° C., under a high vacuum until a yellow paste was obtained. This was subsequently extracted five times with 20 mL acetone and the acetone solutions evaporated to a yellow solid, which was treated with 25 mL EtOAc and the solvent again evaporated. The resulting material was extracted with 10 mL saturated Na2CO3, twice with 20 mL half-saturated Na2CO3, and finally twice with 10 mL water. The remaining crystalline material, 2.96 g, was free of 2-nitroimidazole by TLC (Eastman silica gel, DME). The aqueous solutions were extracted twice with 25 mL EtOAc, and the organic layers then washed with 5 mL half-saturated Na2CO3, 5 mL water, and then dried over anhydrous MgSO4. Concentration to 20 mL and cooling yielded 0.586 g of product, mp 112°-116.5° C. The two crystalline products were recrystallized from EtOH to yield 1.92 g (34.5%) of the desired 2-(2-Nitro-1-imidazoyl)ethanol as yellow-green needles.

reactant | 2-nitroimidazole | 35.4 mmol, 4.00 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | NaOMe | 3N | C[O-].[Na+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 2-bromoethanol | 38.6 mmol, 2.74 mL, 4.82 g | BrCCO | C2H5BrO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-(2-Nitro-1-imidazoyl)ethanol | 0.586 g | [N+](=O)([O-])C=1N(C=CN1)C(=O)CCO | C6H7N3O4
